US07855194B2
2-Chloro-4-thiazol-2-yl-quinazoline
To a 0.5 M solution of 2-thiazolyl zinc bromide in THF (12.1 mL, 6.03 mmol, 1.2 equiv; commercially available from Aldrich) under Ar was added 2,4-dichloro-quinazoline (1.0 g, 5.02 mmol, 1.0 equiv) and tetrakis(triphenylphosphine) palladium(0) (232.2 mg, 0.20 mmol, 0.04 equiv) and the reaction mixture heated by microwave irradiation to 110° C. After 30 min additional 2-thiazolyl zinc bromide in THF (12.1 mL, 6.03 mmol, 1.2 equiv) was added and the reaction mixture heated to 110° C. for another 30 min. The crude reaction mixture was concentrated by evaporation under reduced pressure and the residue purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate providing 0.36 g (29%) of the title compound. MS (ISP): 248.3 [M+H]+.

reactant | 2-thiazolyl zinc bromide | [Br-].S1C(=NC=C1)[Zn+]
reactant | 2,4-dichloro-quinazoline | 5.02 mmol, 1.0 g, 1.0 equiv | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
solvent | THF | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.20 mmol, 232.2 mg, 0.04 equiv | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 6.03 mmol, 12.1 mL, 1.2 equiv | C1CCOC1 | C4H8O
product | 2-Chloro-4-thiazol-2-yl-quinazoline | ClC1=NC2=CC=CC=C2C(=N1)C=1SC=CN1 | C11H6ClN3S
